US06303605B1
c) 4-(6-Chloro-5-cyclobutylpyridazin-3-ylhydrazonomethyl)phenol
3-Chloro-4-cyclobutyl-6-hydrazinopyridazine (0.50 g, 2.5 mmol) and 4-hydroxybenzaldehyde (0.31 g, 2.5 mmol) were stirred in 0.2M hydrochloric acid (15 ml) for 2 hours. The precipitated imine was then collected by filtration and dried to give the title compound (0.63 g, 83%). MS (ES+) 305 [MH]+, 303 [MH]+.

reactant | 3-Chloro-4-cyclobutyl-6-hydrazinopyridazine | 2.5 mmol, 0.50 g | ClC=1N=NC(=CC1C1CCC1)NN | C8H11ClN4
reactant | 4-hydroxybenzaldehyde | 2.5 mmol, 0.31 g | OC1=CC=C(C=O)C=C1 | C7H6O2
solvent | hydrochloric acid | 0.2M, 15 ml | Cl | ClH
product | 4-(6-Chloro-5-cyclobutylpyridazin-3-ylhydrazonomethyl)phenol | 0.63 g, 83% | ClC1=C(C=C(N=N1)NN=CC1=CC=C(C=C1)O)C1CCC1 | C15H15ClN4O
